US04136256
Preparation of p-Hexadecylamino-N-(p-tolylsulfonyl)benzamide
A solution of 34.25 g. of p-toluenesulfonamide in 250 ml. of dry dimethylacetamide is added dropwise over 30 minutes to a stirred and cooled (water bath) suspension of 5.5 g. of sodium hydride in 100 ml. of dry dimethylacetamide. Stirring is continued at room temperature for 3 hours until foaming subsides. In the meantime, a mixture of 36.2 g. of p-hexadecylaminobenzoic acid in 1200 ml. of methylene chloride, 300 ml. of dimethoxyethane, and 40 ml. of thionyl chloride is refluxed for 1 hour and 15 minutes. The solution is evaporated to an oil which is co-evaporated twice with added dioxane to remove excess thionyl chloride. To the resulting oily residue of p-hexadecylaminobenzoyl chloride is added, in one portion, the previously prepared mixture of sodium p-toluenesulfonamide in dimethylacetamide. The mixture is stirred for 30 minutes, without cooling, and is filtered through a bed of diatomaceous earth. The filtrate is poured into 2 l. of water and the resulting suspension is coagulated by the addition of 250 ml. of saturated sodium chloride solution. The gummy solid is decanted and the product is dissolved in 700 ml. of methylene chloride. The mixture is filtered through diatomaceous earth and brine is added to break the emulsion. The layers are separated and the organic phase is dried over anhydrous sodium sulfate and filtered. The filtrate is concentrated on the steam bath to approx. 300 ml. and is filtered through 300 g. of hydrous magnesium silicate using 3 l. of methylene chloride as elutant. The first approx. 600 ml. of filtrate is discarded and the remainder is evaporated to a tan, pasty solid. The solid is crystallized from 75 ml. of 2:1 toluene:hexane solution to give a colorless solid containing a less polar by-product. The mixture is crystallized from absolute ethanol in which the by-product separates out first. The mixture is filtered and the filtrate is concentrated to dryness and the residue is crystallized again from ethanol. This process is repeated until all of the by-product is removed. The product fractions were combined and crystallized twice from 2:1 toluene:hexane to give 8.3 g. of the title compound as colorless crystals, melting point 123°-124° C.

reactant | p-toluenesulfonamide | CC=1C=CC(=CC1)S(=O)(=O)N | C7H9NO2S
reactant | sodium hydride | [H-].[Na+]
reactant | p-hexadecylaminobenzoic acid | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)O)C=C1 | C23H39NO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | dimethoxyethane | C(OC)COC | C4H10O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
solvent | water | O | H2O
product | p-Hexadecylamino-N-(p-tolylsulfonyl)benzamide | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)NS(=O)(=O)C2=CC=C(C=C2)C)C=C1 | C30H46N2O3S
